US05886025
Synthesis of 3-(3-,5--dimethoxybenzoyl)-2-(4--methoxyphenyl)-6-methoxybenzo[b]thiophene
To a well-stirred solution of 2-(4--methoxyphenyl)-6-methoxybenzo[b]thiophene (0.615 g, 2.27 mmol) and 3,5-dimethoxybenzoyl chloride (1.37 g, 6.83 mmol) in CH2Cl2 (45 mL) was added AlCl3 (1.21 g, 9.09 mmol) portion-wise over a 15 minute period. After 17 hours, water was added, and the product was isolated initially by extraction with CH2Cl2 and subsequently by extraction with EtOAc. The organic layers were separately washed with brine and then combined and dried over MgSO4. Purification by flash chromatography (silica gel, 60:40 EtOAc/hexane) afforded the title compound (0.475 g, 1.09 mmol, 48%) as an off-white solid. Recrystallization (hexane/ethanol) afforded a highly pure, crystalline sample with mp 114°-120° C.: 1H-NMR (CDCl3, 360 Mhz): δ=7.59 (d,J=8.9 Hz, 1H, ArH), 7.32 (d,J=8.5 Hz, 2H, ArH), 7.32 (d,J=2.4 Hz, 1H, ArH), 6.98 (dd,J=9.0,2.4 Hz, 1H, ArH), 6.94 (d,J=2.1 Hz, 2H, ArH), 6.76 (d,J=8.7 Hz, 2H, ArH), 6.52 (t,J=2.4 Hz, 1H, ArH), 3.89 (s,3H, --OCH3), 3.76 (s,3H, --OCH3), 3.71 (s,6H, --OCH3); 13C-NMR (CDCl3, 90 Mhz): δ=194.0, 160.5, 159.8, 157.7, 143.9, 140.0, 139.3, 133.8, 130.3, 130.1, 126.0, 124.1, 114.9, 114.0, 107.6, 106.1, 104.4, 55.6, 55.5, 55.2. HRMS (EI) M+ calcd for C25H22O5S 434.1188, found 434.1245.

reactant | 2-(4--methoxyphenyl)-6-methoxybenzo[b]thiophene | 2.27 mmol, 0.615 g | COC1=CC=C(C=C1)C1=CC2=C(S1)C=C(C=C2)OC | C16H14O2S
reactant | 3,5-dimethoxybenzoyl chloride | 6.83 mmol, 1.37 g | COC=1C=C(C(=O)Cl)C=C(C1)OC | C9H9ClO3
reactant | AlCl3 | 9.09 mmol, 1.21 g | [Al+3].[Cl-].[Cl-].[Cl-]
reactant | water | O | H2O
solvent | CH2Cl2 | 45 mL | C(Cl)Cl | CH2Cl2
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-(3-,5--dimethoxybenzoyl)-2-(4--methoxyphenyl)-6-methoxybenzo[b]thiophene | 1.09 mmol, 0.475 g, 48% | COC=1C=C(C(=O)C=2C3=C(SC2C2=CC=C(C=C2)OC)C=C(C=C3)OC)C=C(C1)OC | C25H22O5S
